US05384312
α-(Benzylethylmethylsilyl)ethanamine, hydrochloride
The title compound was prepared from (α-chloroethyl)benzylethylmethylsilane and potassium phthalimide by a procedure similar to the one described in Example 1, Step A.

reactant | (α-chloroethyl)benzylethylmethylsilane | ClC(C)[SiH](C)CCCC1=CC=CC=C1 | C12H19ClSi
reactant | potassium phthalimide | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
product | α-(Benzylethylmethylsilyl)ethanamine, hydrochloride | Cl.C(C1=CC=CC=C1)CC[SiH](C(C)N)C | InChI=1S/C12H21NSi.ClH/c1-11(13)14(2)10-6-9-12-7-4-3-5-8-12;/h3-5,7-8,11,14H,6,9-10,13H2,1-2H3;1H
